data/rdb19/train.csv
rxn,smiles,ea
4230,[C:16]([C:17]([C:18]([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17]([C:18](=[C:19]([H:28])[H:29])[C:20](=[O:21])[O:22][H:31])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([H:8])([H:9])([H:10])[H:30].[O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],75.44099962746259
4050,[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])[H:10])([H:11])([H:12])[H:13].[C:20](=[C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])([H:10])[H:27])([H:11])([H:12])[H:13].[C:20](=[C:21][N:22]([C:23](=[O:24])[H:29])[H:28])([H:25])[H:26],25.20043474930572
1933,[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[C:13]([C:12]([C:11]([H:18])([H:19])[H:20])([H:21])[H:22])([H:14])[C:15](=[O:16])[N:17]([H:23])[H:24])([H:6])[H:7]>>[C:11]([C:12]([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2]1([C:4](=[C:5]([H:9])[H:10])[H:8])[O:3][C:13]1([H:14])[C:15](=[O:16])[N:17]([H:23])[H:24])([H:6])[H:7],41.19868557451992
5359,[C:17]([C:18]([C:19]([H:20])[H:21])([O:22][C:23](=[O:24])[C:25]([H:30])([H:31])[H:32])[H:29])([H:26])([H:27])[H:28].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:17]([C:18](=[C:19]([H:20])[H:21])[O:22][C:23](=[O:24])[C:25]([H:30])([H:31])[H:32])([H:26])([H:27])[H:28].[C:1]([C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[H:29])([H:9])[H:10],37.48058074415894
1989,[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[C:13]([C:12]([C:11]([H:16])([H:17])[H:18])([H:19])[H:20])([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26])([H:6])[H:7]>>[C:4](=[C:5]([H:9])[H:10])[H:8].[N:1]([C:2](=[O:3])[C:13]([C:12]([C:11]([H:16])([H:17])[H:18])([H:19])[H:20])([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26])([H:6])[H:7],11.33620216010604
3522,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:23])([H:9])[H:10])([H:6])([H:7])[H:8],20.71383365971269
3104,[C:16]([C:17]([C:18]([H:19])[H:20])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:14])[H:15])([H:13])[C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:19])[H:20])([H:11])[H:12])([H:8])([H:9])[H:10],15.161456097732298
845,[C:19]([O:20][C:21]([C:22]([H:30])([H:31])[H:32])([C:23]([H:24])[H:25])[H:29])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])[H:15])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][C:23]([C:21]([O:20][C:19]([H:26])([H:27])[H:28])([C:22]([H:30])([H:31])[H:32])[H:29])([H:24])[H:25],22.46683882339857
2038,[C:11]([C:12]([C:13]([C:14]([H:24])([H:25])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29])([H:22])[H:23])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([C:14]([H:24])([H:25])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29])[H:22])([H:19])([H:20])[H:21].[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[H:23])([H:6])[H:7],54.344485322071705
634,[C:18]([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[C:18]([H:19])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[O:6])[O:7][H:17],64.36543130490463
77,[C:12]([C:13]([C:14](=[C:15]([H:22])[H:23])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:15]([C:14]([C:13]([C:12]([H:16])([H:17])[H:18])([H:19])[H:20])[H:21])([H:22])[H:23])([H:6])([H:7])[H:8],18.38733628331101
2127,[C:11]([C:12]([C:13]([H:14])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])([H:24])[H:25])([H:21])([H:22])[H:23].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])[H:24])([H:21])([H:22])[H:23].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])([H:10])[H:25])[H:8])([H:6])[H:7],31.338001630385406
